US03970754
Preparation of 3,4,5-Tribromo-1-methylpyrazole
To 3,4,5-tribromopyrazole (4.5 g, 0.15 mole) in 3N aqueous sodium hydroxide (6 g, 0.15 mole) is added at room temperature with stirring dimethyl sulfate (19 g, 0.15 mole). After 10 minutes a solid separates out. An additional gram of dimethyl sulfate is added and the mixture is stirred for 3 days, filtered and the precipitate water washed and air dried to yield 33 g (73%), mp 85°C. to 86°C. Crystallization from cyclohexane yields desired solid product whose melting point ranges from about 90°C. to 91°C.

reactant | 3,4,5-tribromopyrazole | 0.15 mole, 4.5 g | BrC1=NNC(=C1Br)Br | C3HBr3N2
reactant | sodium hydroxide | 0.15 mole, 3N, 6 g | [OH-].[Na+]
reactant | dimethyl sulfate | 0.15 mole, 19 g | S(=O)(=O)(OC)OC | C2H6O4S
product | 3,4,5-Tribromo-1-methylpyrazole | BrC1=NN(C(=C1Br)Br)C | C4H3Br3N2
